US04316904
8-Chloro-4,5-dihydro-5-methyl-4-oxo-N-1H-tetrazol-5-ylpyrano[3,2-b]indole-2-carboxamide
A mixture of 2.5 g (9.1 mmole) 8-chloro-4, 5-dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carboxylic acid and 4.8 g (19.7 mmole) N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline (EEDQ) in 300 ml benzene was stirred for 45 min under nitrogen. To the reaction mixture was added 1.1 g (10.7 mmole) of 5-aminotetrazole monohydrate, and stirring was continued for a total of 88 hrs. The precipitate that had formed was filtered, stirred overnight in 50 ml of methanol, and refiltered. Two recrystallizations from DMF yielded a yellow solid of mp 300° C. dec.

reactant | 8-chloro-4, 5-dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carboxylic acid | 9.1 mmole, 2.5 g | ClC1=CC=2C3=C(N(C2C=C1)C)C(C=C(O3)C(=O)O)=O | C13H8ClNO4
reactant | N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline | 19.7 mmole, 4.8 g | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
reactant | 5-aminotetrazole monohydrate | 10.7 mmole, 1.1 g | O.NC1=NN=NN1
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 8-Chloro-4,5-dihydro-5-methyl-4-oxo-N-1H-tetrazol-5-ylpyrano[3,2-b]indole-2-carboxamide | ClC1=CC=2C3=C(N(C2C=C1)C)C(C=C(O3)C(=O)NC3=NN=NN3)=O | C14H9ClN6O3
